US07834051B2
2-chloro-4-[(4S,5S)-4-hydroxy-5-methyl-2-oxopyrrolidin-1-yl]benzonitrile
Using 2-chloro-4-[(4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methyl-2-oxopyrrolidin-1-yl]benzonitrile (1.2 g) and tetrabutylammonium fluoride-THF solution (4 mL, 1 mol/L), and in the same manner as in Example 15, the title compound was obtained as a colorless solid (yield: 690 mg, 62%).

reactant | 2-chloro-4-[(4S,5S)-4-(tert-butyldimethylsilyloxy)-5-methyl-2-oxopyrrolidin-1-yl]benzonitrile | 1.2 g | ClC1=C(C#N)C=CC(=C1)N1C(C[C@@H]([C@@H]1C)O[Si](C)(C)C(C)(C)C)=O | C18H25ClN2O2Si
reactant | tetrabutylammonium fluoride THF | 1 mol/L, 4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
product | 2-chloro-4-[(4S,5S)-4-hydroxy-5-methyl-2-oxopyrrolidin-1-yl]benzonitrile | ClC1=C(C#N)C=CC(=C1)N1C(C[C@@H]([C@@H]1C)O)=O | C12H11ClN2O2
